US06100260
To a solution of 5-benzofurancarbonitrile (Japanese Patent Unexamined Publication No. 9-124,631) (1.30 g) in tetrahydrofuran (5 ml) was added 0.87 M methyl magnesium bromide-tetrahydrofuran solution (21 ml), and the resulting mixture was heated under reflux for 4 hours under a nitrogen atmosphere. The reaction mixture was acidified with conc. sulfuric acid and water was added thereto, after which the resulting mixture was subjected to extraction with diethyl ether. The extract solution was washed with water, dried and then distilled under reduced pressure to remove the solvent. The residue was purified by a silica gel column chromatography to obtain 1-benzofuran-5-yl-ethanone (1.21 g).

reactant | 5-benzofurancarbonitrile | O1C=CC2=C1C=CC(=C2)C#N | C9H5NO
reactant | methyl magnesium bromide tetrahydrofuran | 0.87 M, 21 ml | C[Mg]Br.O1CCCC1
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-benzofuran-5-yl-ethanone | 1.21 g | O1C=CC2=C1C=CC(=C2)C(C)=O | C10H8O2
